** sch_path: /foss/designs/a_zonetic2026/XSCHEM/TEST/test_weight.sch
**.subckt test_weight
V1 VDD GND 5
V2 IN GND 5
V5 va GND 5
x1 VDD GND WE va va va va WEIGHT
x2 VDD OUT WE OUT_N GND comp._out
**** begin user architecture code


.tran 1m 1
*.dc V2 0 5 0.01
.save all
.control
run
display
wrdata OUT4.txt v(WE) v(OUT) v(OUT_N)
wrdata CURR4.txt i(v.x1.Vmeas) i(v.x1.Vmeas1) i(v.x1.Vmeas2) i(v.x1.Vmeas3)
plot i(v.x1.Vmeas) i(v.x1.Vmeas1) i(v.x1.Vmeas2) i(v.x1.Vmeas3)
*plot v(WE)
plot v(WE) v(OUT) v(OUT_N)
plot v(WE2) v(OUT2) v(OUT_N2)
*plot i(v.x1.v4)
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
* .lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical


.include ../../../../Layouts/WEIGHT_COMP/mag/WEIGHT_COMP_pex_rc.spice
Xextrc GND VDD WE2 OUT2 OUT_N2 va va va va WEIGHT_COMP



**** end user architecture code
**.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym # of pins=7
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sch
.subckt WEIGHT VDD GND OUT VA VC VB VD
*.iopin VDD
*.iopin GND
*.ipin VA
*.ipin VB
*.ipin VC
*.ipin VD
*.iopin OUT
XM2 OUT OUT VDD VDD pfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
XM3 OUT VD net1 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM5 OUT VC net2 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM6 net2 IN net10 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 OUT OUT net3 GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM7 net3 OUT net4 GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net4 OUT GND GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 OUT VA net5 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM10 net5 IN net11 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 OUT VB net6 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM12 net6 IN net12 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 IN net13 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 IN IN VDD VDD pfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net8 IN net9 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 net7 IN net8 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 IN IN net7 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 net9 IN GND GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
Vmeas net11 GND 0
.save i(vmeas)
Vmeas1 net12 GND 0
.save i(vmeas1)
Vmeas2 net10 GND 0
.save i(vmeas2)
Vmeas3 net13 GND 0
.save i(vmeas3)
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/comp._out.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/comp._out.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/comp._out.sch
.subckt comp._out VDD OUT IN OUT_N VSS
*.ipin IN
*.iopin VDD
*.opin OUT
*.iopin VSS
*.opin OUT_N
x1 VDD IN net1 VSS INV_1
x2 VDD net1 OUT VSS INV_1
x3 VDD OUT OUT_N VSS INV_1
.ends


* expanding   symbol:  DESIGN/FINAL/WEIGTH/INV_1.sym # of pins=4
** sym_path: /foss/designs/DESIGN/FINAL/WEIGTH/INV_1.sym
** sch_path: /foss/designs/DESIGN/FINAL/WEIGTH/INV_1.sch
.subckt INV_1 VDD IN OUT VSS
*.ipin IN
*.iopin VDD
*.opin OUT
*.iopin VSS
XM1 OUT IN VDD VDD pfet_05v0 L=0.5u W=1.83u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 OUT IN VSS VSS nfet_05v0 L=0.6u W=1.32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.GLOBAL GND
.end
