** sch_path: /foss/designs/a_zonetic2026/XSCHEM/TEST/test_weight.sch
**.subckt test_weight
V1 VDD GND 5
V5 VA GND pulse(0 5 0 5m 5m 0.5 1)
x1 VDD GND WE VA VB VC VD WEIGHT
x2 VDD OUT WE OUT_N GND COMP_OUT
V6 VDD1 GND 5
V9 VDD2 GND 5
V2 VB GND pulse(0 5 0 5m 5m 0.25 0.5)
V3 VC GND pulse(0 5 0 5m 5m 0.125 0.25)
V4 VD GND pulse(0 5 0 5m 5m 0.0625 0.125)
**** begin user architecture code


* CAREFUL: no braces in this text. xschem counts them to find where the
* attribute block ends and a single one cuts it in half.
*
* CORRIENTES DE RAMA EN EL LAYOUT.
* In the schematic they are measured with the four 0 V sources Vmeas..Vmeas3
* inside WEIGHT, in series with each branch tail. The extracted netlist has no
* such sources, but ngspice can give a transistor drain current if asked with
* .save BEFORE running -- device internal variables cannot be asked for
* afterwards. The trailing .m0 is needed because
* el modelo del PDK es un subcircuito y el MOS de dentro se llama m0.
*
* Which transistor is which branch is traced through the nodes: the four tails
* of the extraction are the w=1.24u ones, and each hangs off the intermediate
* llegan los dos transistores de entrada de esa rama.
*
*   rama   esquematico   nodo intermedio   cola en el layout
*   VA     Vmeas         a_5026_1208       X31
*   VB     Vmeas1        a_1038_1208       X16
*   VC     Vmeas2        a_n74_0           X23
*   VD     Vmeas3        a_n74_1208        X24
.tran 1m 1
.save all
.save @m.xextrc.x31.m0[id] @m.xextrc.x16.m0[id]
+ @m.xextrc.x23.m0[id] @m.xextrc.x24.m0[id]
.control
run
wrdata input.txt   v(VA) v(VB) V(VC) V(VD)
wrdata middle.txt  v(WE) v(WE1) v(WE2)
wrdata power.txt   v(VDD)*i(V1) v(VDD1)*i(V6) v(VDD2)*i(V9)
wrdata out.txt     v(OUT) v(OUT1) v(OUT2) v(OUT_N) v(OUT_N1) v(OUT_N2)
* The eight branch currents: first the four schematic ones and then the four
* layout ones, in the same VA VB VC VD order.
wrdata current.txt i(v.x1.Vmeas) i(v.x1.Vmeas1) i(v.x1.Vmeas2) i(v.x1.Vmeas3)
+ @m.xextrc.x31.m0[id] @m.xextrc.x16.m0[id]
+ @m.xextrc.x23.m0[id] @m.xextrc.x24.m0[id]
.endc



.include /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
* .lib /foss/designs/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_statistical


.include ../../../../Layouts/WEIGHT_COMP/mag/WEIGHT_COMP_pex_rc.spice
Xextrc GND VDD1 VD WE1 VA VB OUT1 OUT_N1 VC WEIGHT_COMP
.include ../../../../layouts_v2/WEIGHT_COMP/mag/WEIGHT_COMP_V2_pex_rc.spice
Xextrc2 GND VDD2 VD WE2 VA VB OUT2 OUT_N2 VC WEIGHT_COMP_V2
*WEIGHT_COMP VSS VDD VD WE VA VB OUT OUT_N VC

**** end user architecture code
**.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym # of pins=7
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/WEIGHT.sch
.subckt WEIGHT VDD GND OUT VA VC VB VD
*.iopin VDD
*.iopin GND
*.ipin VA
*.ipin VB
*.ipin VC
*.ipin VD
*.iopin OUT
XM2 OUT OUT VDD VDD pfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=6
XM3 OUT VD net1 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM5 OUT VC net2 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM6 net2 IN net10 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 OUT OUT net3 GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM7 net3 OUT net4 GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 net4 OUT GND GND nfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 OUT VA net5 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM10 net5 IN net11 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 OUT VB net6 GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XM12 net6 IN net12 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net1 IN net13 GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 IN IN VDD VDD pfet_06v0 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 net8 IN net9 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM15 net7 IN net8 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM16 IN IN net7 GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM17 net9 IN GND GND nfet_06v0 L=1u W=0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
Vmeas net11 GND 0
.save i(vmeas)
Vmeas1 net12 GND 0
.save i(vmeas1)
Vmeas2 net10 GND 0
.save i(vmeas2)
Vmeas3 net13 GND 0
.save i(vmeas3)
XMF1 OUT VDD netF GND nfet_06v0 L=1u W=2.48u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=2
XMF2 netF IN GND GND nfet_06v0 L=1u W=1.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/COMP_OUT.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/COMP_OUT.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/COMP_OUT.sch
.subckt COMP_OUT VDD OUT IN OUT_N VSS
*.ipin IN
*.iopin VDD
*.opin OUT
*.iopin VSS
*.opin OUT_N
x1 VDD IN net1 VSS INV_1
x2 VDD net1 OUT VSS INV_1
x3 VDD OUT OUT_N VSS INV_1
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/WEIGTH/INV_1.sym # of pins=4
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/INV_1.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/WEIGTH/INV_1.sch
.subckt INV_1 VDD IN OUT VSS
*.ipin IN
*.iopin VDD
*.opin OUT
*.iopin VSS
XM3 OUT IN VDD VDD pfet_05v0 L=0.5u W=1.83u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 OUT IN VSS VSS nfet_05v0 L=0.6u W=1.32u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.GLOBAL GND
.end
